US08247573B2
3.44 g (20.0 mmol) (2-chloroethyl)(phenyl)sulfane and 5.53 g (40.0 mmol) potassium carbonate were added to a solution of 1.56 g (10.0 mmol) 2-mercapto-3-nitropyridine in DMF (30 ml) and heated for 4 h at 60° C. Then the mixture was diluted with EE and washed with brine. The organic phase was separated off, dried over Na2SO4, filtered and concentrated to small volume under vacuum. Column chromatography (hexane/EE 9:1) of the residue yielded 1.93 g (6.6 mmol, 66%) 3-nitro-2-(2-phenylsulfanyl-ethylsulfanyl)pyridine.

reactant | (2-chloroethyl)(phenyl)sulfane | 20.0 mmol, 3.44 g | ClCCSC1=CC=CC=C1 | C8H9ClS
reactant | potassium carbonate | 40.0 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercapto-3-nitropyridine | 10.0 mmol, 1.56 g | SC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O2S
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-nitro-2-(2-phenylsulfanyl-ethylsulfanyl)pyridine | 6.6 mmol, 1.93 g, 66% | [N+](=O)([O-])C=1C(=NC=CC1)SCCSC1=CC=CC=C1 | C13H12N2O2S2
